US07968556B2
SYNTHESIS OF 9-(CIS-4-HYDROXYCYCLOHEXYL)-2-(3-HYDROXYPHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE
9-(cis-4-Methoxycyclohexyl)-2-(3-hydroxyphenyl)-8-oxo-8,9-dihydro-7H-purine-6-carboxamide. Methyl 9-(cis-4-methoxycyclohexyl)-8-oxo-2-(3-(triisopropylsilyloxy)phenyl)-8,9-dihydro-7H-purine-6-carboxylate (0.210 g, 377 mmol) was dissolved in methanol (15 mL) reacted with ammonia gas according to General Procedure G. After 16 h, the solution was condensed under reduced pressure and the resultant crude product diluted with tetrahydrofuran (15 mL) and 1.0M tetrabutylammonium fluoride in tetrahydrofuran (0.92 mL) was added. After two h, the resultant precipitate was filtered and washed with tetrahydrofuran followed by hexanes. The product was purified using reverse-phase preparative HPLC (20 to 100% acetonitrile+0.1% TFA in H2O+0.1% TFA, over 30 min) to afford the title compound (0.093 g, 64%). 1H NMR (400 MHz, DMSO-d6) δ 11.48 (s, 1H), 9.47 (s, 1H), 8.32 (s, 1H), 8.03 (d, J=7.59, 1H), 7.92 (s, 2H), 7.28 (t, J=7.59, 1H), 6.86 (dd, J=7.99, 2.39, 1H), 4.30 (m, 1H), 3.49 (s, 1H), 3.34 (s, 3H), 2.71 (m, 2H), 2.06 (s, 1H), 2.03 (s, 1H), 1.53 (m, 4H); MS (ESI) m/z 384.4. [M+1]+; mp 345-347° C.

reactant | 9-(cis-4-Methoxycyclohexyl)-2-(3-hydroxyphenyl)-8-oxo-8,9-dihydro-7H-purine-6-carboxamide | CO[C@H]1CC[C@H](CC1)N1C2=NC(=NC(=C2NC1=O)C(=O)N)C1=CC(=CC=C1)O | C19H21N5O4
reactant | Methyl 9-(cis-4-methoxycyclohexyl)-8-oxo-2-(3-(triisopropylsilyloxy)phenyl)-8,9-dihydro-7H-purine-6-carboxylate | 377 mmol, 0.210 g | CO[C@H]1CC[C@H](CC1)N1C2=NC(=NC(=C2NC1=O)C(=O)OC)C1=CC(=CC=C1)O[Si](C(C)C)(C(C)C)C(C)C | C29H42N4O5Si
reactant | ammonia | N | H3N
solvent | methanol | 15 mL | CO | CH4O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrabutylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.92 mL | O1CCCC1 | C4H8O
product | 9-(CIS-4-HYDROXYCYCLOHEXYL)-2-(3-HYDROXYPHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE | 0.093 g, 64% | O[C@H]1CC[C@H](CC1)N1C2=NC(=NC(=C2NC1=O)C(=O)N)C1=CC(=CC=C1)O | C18H19N5O4
